US08202868B2
a.1.5: 2-tert-Butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-cyclobutyl-pyrimidine
3.5 g of 2-tert-butyl-4-(piperazin-1-yl)-6-cyclobutyl-pyrimidine (12.75 mmol), 2.3 g of 1-bromo-3-chloro-propane (14.6 mmol) and 2.8 ml of triethylamine (20.1 mmol) were dissolved in 70 ml of dimethylformamide. The mixture was stirred at room temperature overnight and for further 3 h at 40° C. The reaction mixture was then extracted with water and ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, and concentrated to dryness. The crude product was then purified by silica gel chromatography (dichloromethane as eluent) to yield 3.0 g (67%) of the title compound.

reactant | 2-tert-butyl-4-(piperazin-1-yl)-6-cyclobutyl-pyrimidine | 12.75 mmol, 3.5 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCNCC1)C1CCC1 | C16H26N4
reactant | 1-bromo-3-chloro-propane | 14.6 mmol, 2.3 g | BrCCCCl | C3H6BrCl
reactant | triethylamine | 20.1 mmol, 2.8 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 2-tert-Butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-cyclobutyl-pyrimidine | 3.0 g, 67% | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCl)C1CCC1 | C19H31ClN4
